US07432258B2
2-bromo-N-{2-hydroxy-5-[(trifluoromethyl)oxy]phenyl}acetamide (4.23 g, 13.5 mmol), was dissolved in 140 mL of anhydrous dimethylformamide under argon. Potassium carbonate was added and suspended in the solution at room temperature. The mixture was warmed to 85° C. and was refluxed for one hour. HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) indicated that all of the starting material (Rt=6.5 min) was consumed and a new single peak formed (Rt=6.2 min). The mixture was allowed to cool to room temperature before it was diluted with 600 mL of ethyl acetate and washed with water (2×150 mL) and brine (2×150 mL). The organic phase was dried over Na2SO4, filtered and concentrated to give 6-[(trifluoromethyl)oxy]-2H-1,4-benzoxazin-3(4H)-one (2.86 g, 12.3 mmol, 91%) as a brown amorphous solid. MS (ES) m/e 233 [M+H]+.

reactant | 2-bromo-N-{2-hydroxy-5-[(trifluoromethyl)oxy]phenyl}acetamide | 13.5 mmol, 4.23 g | BrCC(=O)NC1=C(C=CC(=C1)OC(F)(F)F)O | C9H7BrF3NO3
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | CH3CN H2O | CC#N.O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 6-[(trifluoromethyl)oxy]-2H-1,4-benzoxazin-3(4H)-one | 12.3 mmol, 2.86 g, 91% | FC(OC=1C=CC2=C(NC(CO2)=O)C1)(F)F | C9H6F3NO3
